US08895545B2
(R)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine
To a cooled solution (0° C.) of LAH (1M in THF, 4.4 mL, 4.4 mmol) was added a solution, of (R)-7-bromo-3-methyl-4,5-dihydro-1H-pyrido[2,3-e][1,4]diazepin-2(3H)-one (750 mg, 2.9 mmol) in THF (20 mL). The reaction was warmed to room temperature and stirred over night. Once the reaction was complete, it was cooled to 0° C. and carefully quenched with water (10 mL), extracted with ethyl acetate (4×15 mL), dried over sodium sulfate and concentrated. The product was isolated by column chromatography (10% MeOH in CH2Cl2) to give the title compound as a light yellow solid (161 mg, 23%): 1H NMR (400 MHz, CD3OD) δ7.96 (s, 1H), 7.55 (s, 1H), 3.93-3.89 (d, J=15.6 Hz, 1H), 3.74-3.70 (d, J=15.2 Hz, 1H), 3.43-3.39 (d, J=13.6 Hz, 1H), 3.02 (m, 1H), 2.81-2.76 (m, 1H), 1.14-1.12 (d, J=6.8 Hz, 3H).

reactant | LAH | 4.4 mmol, 1M, 4.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (R)-7-bromo-3-methyl-4,5-dihydro-1H-pyrido[2,3-e][1,4]diazepin-2(3H)-one | 2.9 mmol, 750 mg | BrC1=CC2=C(NC([C@H](NC2)C)=O)N=C1 | C9H10BrN3O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-7-bromo-3-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine | 161 mg, 23% | BrC1=CC2=C(NC[C@H](NC2)C)N=C1 | C9H12BrN3
